US06759428B2
6-Imidazol-1-ylmethyl-1H-indole-2-carboxylic acid [(1S,2R)-2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide was prepared from 6-imidazol-1-ylmethyl-1H-indole-2-carboxylic acid using the coupling procedure of Example 10 and replacing leucinamide with 2-aminoacetamide.

reactant | 6-imidazol-1-ylmethyl-1H-indole-2-carboxylic acid | N1(C=NC=C1)CC1=CC=C2C=C(NC2=C1)C(=O)O | C13H11N3O2
reactant | 2-aminoacetamide | NCC(=O)N | C2H6N2O
product | 6-Imidazol-1-ylmethyl-1H-indole-2-carboxylic acid [(1S,2R)-2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide | C(#N)CNC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1NC2=CC(=CC=C2C1)CN1C=NC=C1 | C22H24N6O2
